* SPDX-License-Identifier: Apache-2.0
* Dual differential capture with independently phased even and odd writes.
.subckt cmos_differential_capture D DB CLK CLKB VDD VSS Q QB
XLQP Q_INT QB_INT VDD VDD pfet_03v3 w=8u l=0.28u m=2
XLQN Q_INT QB_INT VSS VSS nfet_03v3 w=8u l=0.28u m=2
XLBP QB_INT Q_INT VDD VDD pfet_03v3 w=8u l=0.28u m=2
XLBN QB_INT Q_INT VSS VSS nfet_03v3 w=8u l=0.28u m=2
XSETD QB_INT D SET_TAIL VSS nfet_03v3 w=8u l=0.28u m=4
XSETC SET_TAIL CLK VSS VSS nfet_03v3 w=8u l=0.28u m=8
XRSTD Q_INT DB RST_TAIL VSS nfet_03v3 w=8u l=0.28u m=4
XRSTC RST_TAIL CLK VSS VSS nfet_03v3 w=8u l=0.28u m=8
XSETPD Q_INT DB PSET_TAIL VDD pfet_03v3 w=8u l=0.28u m=4
XSETPC PSET_TAIL CLKB VDD VDD pfet_03v3 w=8u l=0.28u m=8
XRSTPD QB_INT D PRST_TAIL VDD pfet_03v3 w=8u l=0.28u m=4
XRSTPC PRST_TAIL CLKB VDD VDD pfet_03v3 w=8u l=0.28u m=8
XQBP QB_BUF Q_INT VDD VDD pfet_03v3 w=8u l=0.28u m=2
XQBN QB_BUF Q_INT VSS VSS nfet_03v3 w=4u l=0.28u m=2
XQOP Q QB_BUF VDD VDD pfet_03v3 w=8u l=0.28u m=4
XQON Q QB_BUF VSS VSS nfet_03v3 w=8u l=0.28u m=3
XBBP Q_BUF QB_INT VDD VDD pfet_03v3 w=8u l=0.28u m=2
XBBN Q_BUF QB_INT VSS VSS nfet_03v3 w=4u l=0.28u m=2
XBOP QB Q_BUF VDD VDD pfet_03v3 w=8u l=0.28u m=4
XBON QB Q_BUF VSS VSS nfet_03v3 w=8u l=0.28u m=3
.ends cmos_differential_capture

.subckt deserializer_split_capture EVEN_D EVEN_DB ODD_D ODD_DB
+ EVEN_CAPTURE_CLK EVEN_CAPTURE_CLKB ODD_CAPTURE_CLK ODD_CAPTURE_CLKB
+ VDD VSS EVEN_Q EVEN_QB ODD_Q ODD_QB
XEDP EVEN_D_BUF EVEN_DB VDD VDD pfet_03v3 w=8u l=0.28u m=8
XEDN EVEN_D_BUF EVEN_DB VSS VSS nfet_03v3 w=8u l=0.28u m=4
XEDBP EVEN_DB_BUF EVEN_D VDD VDD pfet_03v3 w=8u l=0.28u m=8
XEDBN EVEN_DB_BUF EVEN_D VSS VSS nfet_03v3 w=8u l=0.28u m=4
XODP ODD_D_BUF ODD_DB VDD VDD pfet_03v3 w=8u l=0.28u m=8
XODN ODD_D_BUF ODD_DB VSS VSS nfet_03v3 w=8u l=0.28u m=4
XODBP ODD_DB_BUF ODD_D VDD VDD pfet_03v3 w=8u l=0.28u m=8
XODBN ODD_DB_BUF ODD_D VSS VSS nfet_03v3 w=8u l=0.28u m=4
XEVEN EVEN_D_BUF EVEN_DB_BUF EVEN_CAPTURE_CLK EVEN_CAPTURE_CLKB
+ VDD VSS EVEN_Q EVEN_QB cmos_differential_capture
XODD ODD_D_BUF ODD_DB_BUF ODD_CAPTURE_CLK ODD_CAPTURE_CLKB
+ VDD VSS ODD_Q ODD_QB cmos_differential_capture
.ends deserializer_split_capture
